US05643914
1E 2-(E-2-Carboxymethylethenyl)-3-[4-(4-methoxyphenyl)butyloxy]-6-methylpyridine N-oxide.
2-(E-2-Carboxymethylethenyl)-3-[4-(4-methoxyphenyl)butyloxy]-6-methylpyridine (13.6 g, 38.2 mmol) was dissolved in dry CH2Cl2 (100 mL,) and cooled to 0° C. To this was added 50% mCPBA (13.2 g, 38.3 mmol) in three portions over 10 minutes. The cooling bath was removed and the reaction was stirred for 15 h at room temperature. The reaction was poured into aqueous NaHCO3 and the product extracted into CH2Cl2. The organic extract was washed with H2O and brine and dried (MgSO4). The crude product was obtained as a yellow solid and was used without further purification.

reactant | 2-(E-2-Carboxymethylethenyl)-3-[4-(4-methoxyphenyl)butyloxy]-6-methylpyridine | 38.2 mmol, 13.6 g | C(=O)(O)C/C=C/C1=NC(=CC=C1OCCCCC1=CC=C(C=C1)OC)C | C21H25NO4
reactant | mCPBA | 38.3 mmol, 13.2 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-(E-2-Carboxymethylethenyl)-3-[4-(4-methoxyphenyl)butyloxy]-6-methylpyridine N-oxide | C(=O)(O)C/C=C/C1=[N+](C(=CC=C1OCCCCC1=CC=C(C=C1)OC)C)[O-] | C21H25NO5
